US04921524
Preparation of 4-(4-methoxyphenyl)cyclohexane-1,3-dione
A mixture of 4-methoxyphenylacetone (50 g) and methyl acrylate (26.2 g) was added dropwise to a stirred suspension of sodium methoxide (from 7.5 g sodium in 50 ml methanol) in dry xylene (160 ml) at ambient temperature. The resulting solution was then refluxed for 3 hours. The xylene was evaporated in vacuo and the residue partitioned between water and diethyl ether. The aqueous phase was further extracted with diethyl ether. The aqueous layer was finally acidified with concentrated hydrochloric acid to precipitate 4-(4-methoxyphenyl)cyclohexane-1,3-dione (37 g) as a white solid (after an ether washing) of m.p. 150°-151° C.

reactant | 4-methoxyphenylacetone | 50 g | COC1=CC=C(C=C1)CC(C)=O | C10H12O2
reactant | methyl acrylate | 26.2 g | C(C=C)(=O)OC | C4H6O2
reactant | sodium methoxide | 50 ml, 7.5 g | C[O-].[Na+]
solvent | xylene | 160 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-(4-methoxyphenyl)cyclohexane-1,3-dione | COC1=CC=C(C=C1)C1C(CC(CC1)=O)=O | C13H14O3
